US04386089
2-(2-Chloroacetylimino-4-thiazolin-4-yl)-acetic acid ethyl ester
After cooling to 10° C., 44.4 ml of chloroacetic anhydride are added to a solution of 40 g of 2-(2-aminothiazol-4-yl)-acetic acid ethyl ester in a mixture of 400 ml of methylene chloride and 54 ml of pyridine. The temperature increases to about 20° C. After about 30 minutes, a precipitate separates out. It is filtered off and washed with methylene chloride.

reactant | chloroacetic anhydride | 44.4 ml | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 2-(2-aminothiazol-4-yl)-acetic acid ethyl ester | 40 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 54 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Chloroacetylimino-4-thiazolin-4-yl)-acetic acid ethyl ester | C(C)OC(CC=1NC(SC1)=NC(CCl)=O)=O | C9H11ClN2O3S
